US07622469B2
2,4-Diamino-1,6-dihydro-6-heptyl-1-(4′-tert-butylphenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 4.3 g (33.1 mmol) of 1-octanal and 0.9 ml of concentrated hydrochloric acid were added to 6.0 g (22.2 mmol) of N1-(4-tert-butylphenyl)-biguanide hydrochloride, and the mixture was refluxed for 20 hours. The solvent was concentrated under reduced pressure, and the residue was cooled. The resulting precipitated colorless crystals were collected by filtration, and recrystallized from 80% aqueous ethanol to obtain 4.2 g of colorless crystals having a melting point of 239 to 241° C.

reactant | 1-octanal | 33.1 mmol, 4.3 g | C(CCCCCCC)=O | C8H16O
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
reactant | N1-(4-tert-butylphenyl)-biguanide hydrochloride | 22.2 mmol, 6.0 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Diamino-1,6-dihydro-6-heptyl-1-(4′-tert-butylphenyl)-1,3,5-triazine hydrochloride | 4.2 g | Cl.NC=1N(C(N=C(N1)N)CCCCCCC)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C20H33N5.ClH/c1-5-6-7-8-9-10-17-23-18(21)24-19(22)25(17)16-13-11-15(12-14-16)20(2,3)4;/h11-14,17H,5-10H2,1-4H3,(H4,21,22,23,24);1H
